US04542142
2 g of 1,1-dimethylethyl (1R,cis) 2,2-dimethyl-3[2-carboxyethynyl]-cyclopropane-carboxylate in 41 ml of ethyl acetate were hydrogenated in the presence of 0.38 g of 10% palladium hydroxide on barium sulfate and 0.4 ml of quinoline and the mixture was filtered. The filfrate was washed with 0.5N hydrochloric acid, then with water until neutral, dried and evaporated to dryness under reduced pressure to obtain 2 g of 1,1-dimethylethyl (1R,cis) 2,2-dimethyl-3-[(Z) 2-carboxyethenyl]-cyclopropane-carboxylate melting at 94° C.

reactant | 1,1-dimethylethyl (1R,cis) 2,2-dimethyl-3[2-carboxyethynyl]-cyclopropane-carboxylate | 2 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)OC(C)(C)C)C | C13H18O4
reactant | quinoline | 0.4 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethyl acetate | 41 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide | 0.38 g | [OH-].[Pd+2].[OH-]
product | 1,1-dimethylethyl (1R,cis) 2,2-dimethyl-3-[(Z) 2-carboxyethenyl]-cyclopropane-carboxylate | 2 g | CC1([C@@H]([C@@H]1\C=C/C(=O)O)C(=O)OC(C)(C)C)C | C13H20O4
